US07309703B2
A solution of 1-{3-[4-(2-amino-6-chloro-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (257 mg, 0.42 mmol) in 4 mL of CH2Cl2 was treated with 32 L (0.42 mmol, 1.0 eq) of methanesulfonyl chloride and 116 L (0.83 mmol, 2 eq) of triethylamine and the reaction mixture stirred at 25° C. for 1 h. EtOAc (40 mL) and sat. NaHCO3 (20 mL) were added. The organic layer was separated and washed with H2O (20 mL), brine (20 mL), dried over Na2SO4, and concentrated to afford the crude 1-{3-[4-(2-chloro-6-methanesulfonylamino-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester. TLC (silica, 10% MeOH/CH2Cl2): Rf=0.3. MS (electrospray): exact mass calculated for C32H40ClF3N6O4S, 696.25; m/z found, 697.2 [M+H]+.

reactant | 1-{3-[4-(2-amino-6-chloro-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 0.42 mmol, 257 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCN2CCN(CC2)C2=C(C=CC=C2Cl)N | C31H38ClF3N6O2
reactant | methanesulfonyl chloride | 0.42 mmol, 32 L, 1.0 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.83 mmol, 116 L, 2 eq | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 1-{3-[4-(2-chloro-6-methanesulfonylamino-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCN2CCN(CC2)C2=C(C=CC=C2NS(=O)(=O)C)Cl | C32H40ClF3N6O4S
